### PR TITLE
feat: add `Bitvec reverse` definition, `getLsbD_reverse, getMsbD_reverse, reverse_append, reverse_replicate` and `Nat.mod_sub_eq_sub_mod`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR defines `reverse` for bitvectors and implements a first subset of theorems (`getLsbD_reverse, getMsbD_reverse, reverse_append, reverse_replicate, reverse_cast, msb_reverse`). We also include some necessary related theorems (`cons_append, cons_append_append, append_assoc, replicate_append_self, replicate_succ'`) and deprecate theorems`replicate_zero_eq` and `replicate_succ_eq`.

### CODE REVIEW

File: src/Init/Data/BitVec/Basic.lean [hunk 1]
```diff
@@ -669,4 +669,11 @@ def ofBoolListLE : (bs : List Bool) → BitVec bs.length
 | [] => 0#0
 | b :: bs => concat (ofBoolListLE bs) b
 
+/- ### reverse -/
+
+/-- Reverse of a Bitvec. We treat BitVec as lists of bools. -/
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Basic.lean:674]:
```suggestion
/-- Reverse the bits in a bitvector. -/
```

We generally phrase a docstring for a function as an action/verb rather than just the result/noun.

I also wouldn't mention that we treat a bitvector as a list of bools, that's the "expected" interpretation of a bitvector (list of bools is more or less the same as a "vector of bits").

I guess you're referring here to the fact that the implementation is more in the style of a `List.reverse` versus other definitions that rely on the Nat-based internal encoding. That kind of comment feels more appropriate as a local comment rather than a docstring, but even then, I'm not sure it needs mentioning; it's clear from the code already.

File: src/Init/Data/BitVec/Basic.lean [hunk 2]
```diff
@@ -669,4 +669,11 @@ def ofBoolListLE : (bs : List Bool) → BitVec bs.length
...
+def reverse : (w : Nat) → BitVec w → BitVec w
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Basic.lean:675]:
```suggestion
def reverse : {w : Nat} → BitVec w → BitVec w
```

`w` can be inferred from the bitvector arg, and can thus be implicit

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -3502,6 +3502,86 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
...
+      congr; omega
+
+theorem getMsbD_reverse {i : Nat} {x : BitVec w} :
+    (x.reverse).getMsbD i = x.getLsbD i := by
+  simp only [getMsbD_eq_getLsbD, getLsbD_reverse]
+  by_cases hi : i < w
+  · simp only [hi, decide_true, show w - 1 - i < w by omega, Bool.true_and]
+    congr; omega
+  · simp [hi, show i ≥ w by omega]
+
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:3527]: I'm missing a `msb_reverse` specialization

**Comment by kim-em** [comment]
@luisacicolini, please add the `changelog-library` label to the PR. You can do this by writing the label name in a comment. (I'm faster to look at PRs that have a green tick!)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -3502,6 +3502,88 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
...
+theorem msb_reverse {x : BitVec w} :
+    (x.reverse).msb = x.getLsbD 0 :=
+  by rw [BitVec.msb, getMsbD_reverse]
+
+theorem reverse_append {x : BitVec w} {y : BitVec v} (h : v + w = w + v) :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3532]: I don't think `h` should be an argument here. It's just true.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -3502,6 +3502,88 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
...
+        conv =>
+          lhs
+          rw [← this]
+        omega
+      · omega
+
+theorem reverse_replicate {n : Nat} {x : BitVec w} :
+    (x.replicate n).reverse = (x.reverse).replicate n := by
+  ext i h
+  simp [getLsbD_reverse, getMsbD_eq_getLsbD, getLsbD_replicate]
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3577]: Non-terminal simp

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -3502,6 +3502,88 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
...
+  rcases n with rfl | n
+  · simp
+  · by_cases hw : 0 < w
+    · simp [show (w * (n + 1) - 1 - i < w * (n + 1)) by omega,
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3581]: ditto

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -3502,6 +3502,88 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
...
+  simp only [getLsbD_append, getLsbD_reverse]
+  by_cases hi : i < v
+  · by_cases hw : w ≤ i
+    · simp [getMsbD_append, getLsbD_cast, getLsbD_append, getLsbD_reverse, hw]
+    · simp [getMsbD_append, getLsbD_cast, getLsbD_append, getLsbD_reverse, hw, show i < w by omega]
+  · by_cases hw : w ≤ i
+    · simp [getMsbD_append, getLsbD_cast, getLsbD_append, hw, show ¬ i < w by omega, getLsbD_reverse]
+    · simp [getMsbD_append, getLsbD_cast, getLsbD_append, hw, show i < w by omega, getLsbD_reverse]
+
+theorem Nat.mod_sub_eq_sub_mod {w n i : Nat} (hwn : i < w * n) (hn : 0 < n):
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3544]: This theorem is now named `BitVec.Nat.mod_sub_eq_sub_mod`.

Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3544]:
```suggestion
theorem Nat.mod_sub_eq_sub_mod {w n i : Nat} (hwn : i < w * n) (hn : 0 < n) :
```

**Comment by kim-em** [comment]
@luisacicolini, I've pushed a commit with a better proof strategy, but it still has some sorries for you to fill.

It's best not to just bash these lemmas out when they can be reduced to simpler but still useful facts!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -3184,11 +3184,11 @@ theorem and_one_eq_setWidth_ofBool_getLsbD {x : BitVec w} :
   ext (_ | i) h <;> simp [Bool.and_comm]
 
 @[simp]
-theorem replicate_zero_eq {x : BitVec w} : x.replicate 0 = 0#0 := by
+theorem replicate_zero {x : BitVec w} : x.replicate 0 = 0#0 := by
   simp [replicate]
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3188]: Please restore the deprecations I added.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -3217,6 +3217,37 @@ theorem getElem_replicate {n w : Nat} (x : BitVec w) (h : i < w * n) :
   simp only [← getLsbD_eq_getElem, getLsbD_replicate]
   by_cases h' : w = 0 <;> simp [h'] <;> omega
 
+theorem replicate_append {x : BitVec w} :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3220]: This should be called `append_replicate_self`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -3217,6 +3217,37 @@ theorem getElem_replicate {n w : Nat} (x : BitVec w) (h : i < w * n) :
...
+    x ++ x.replicate n = (x.replicate n ++ x).cast (by rw [Nat.add_comm]) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3221]: Please replace this with
```
theorem append_assoc {x₁ : BitVec w₁} {x₂ : BitVec w₂} {x₃ : BitVec w₃} :
    (x₁ ++ x₂) ++ x₃ = (x₁ ++ (x₂ ++ x₃)).cast (by omega) := by
  sorry

theorem replicate_append {x : BitVec w} :
    x ++ x.replicate n = (x.replicate n ++ x).cast (by rw [Nat.add_comm]) := by
  induction n with
  | zero => simp
  | succ n ih =>
    rw [replicate_succ]
    conv => lhs; rw [ih]
    sorry -- just cleaning up casts.
```
Yesterday's general comment applies again. :-)

**Comment by kim-em** [comment]
I suspect, but won't ask for this PR, that proving things about `replicate` would actually get easier by generalizing, i.e. defining a `BitVec.flattenList' : (L : List (\Sigma n, BitVec n)) -> BitVec (L.map fst).sum` and then a `BitVec.flattenList : (L : List (BitVec n)) -> BitVec (L.length * n)`, and finally defining `BitVec.replicate x n := BitVec.flattenList (List.replicate x n)` and deriving all facts from facts about the more general operations.

**Comment by kim-em** [comment]
> Thanks a lot @kim-em :) While at it, I also added a `replicate_append` lemma. All `sorry`s should be clear now!

And please remember to comment `awaiting-review`, as if the `awaiting-author` label is still present I might not remember to look!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 10 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:3221]: The proof will be by induction on w\1, then using `rw [← cons_msb_setWidth x₁]`, and it seems a lemma `cons_append` is missing.

**Comment by luisacicolini** [comment]
Had to add an extra `cons_append_append` lemma to fix all the casts, but proof eventually went through.

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -2030,6 +2030,39 @@ theorem eq_msb_cons_setWidth (x : BitVec (w+1)) : x = (cons x.msb (x.setWidth w)
...
+  ext i h
+  simp only [cons, getLsbD_append, getLsbD_cast, getLsbD_ofBool, cast_cast]
+  by_cases h₀ : i < w₁ + w₂
+  · simp [h₀]
+    by_cases h₁ : i < w₂
+    · simp [h₁]
+    · simp [h₁, show i - w₂ - w₁ = 0 by omega]
+      omega
+  · simp [show ¬i < w₂ by omega, show i - w₂ - w₁ = 0 by omega, h₀, show i - (w₁ + w₂) = 0 by omega]
+    omega
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2045]: I'm sorry to keep asking for more and more changes here, but I think there's opportunity to fill in obvious missing lemmas and get easier proofs.

Could this be by:
```
theorem cons_append (x : BitVec w₁) (y : BitVec w₂) (a : Bool) :
    (cons a x) ++ y = (cons a (x ++ y)).cast (by omega) := by
  apply eq_of_toNat_eq
  simp only [toNat_append, toNat_cons, toNat_cast]
  rw [Nat.shiftLeft_add, Nat.shiftLeft_or_distrib]
```
The lemma `Nat.shiftLeft_or_distrib` is missing and would need to be written.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -3217,6 +3250,33 @@ theorem getElem_replicate {n w : Nat} (x : BitVec w) (h : i < w * n) :
   simp only [← getLsbD_eq_getElem, getLsbD_replicate]
   by_cases h' : w = 0 <;> simp [h'] <;> omega
 
+theorem append_assoc {x₁ : BitVec w₁} {x₂ : BitVec w₂} {x₃ : BitVec w₃} :
+    (x₁ ++ x₂)++ x₃ = (x₁ ++ (x₂ ++ x₃)).cast (by omega) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:3254]:
```suggestion
    (x₁ ++ x₂) ++ x₃ = (x₁ ++ (x₂ ++ x₃)).cast (by omega) := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 11 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2045]: The idea here is that switching to Nat as soon as possible means you don't need to handle all in index inequalities. It's great that `omega` can solve them, but hopefully we can just avoid them to begin with.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2045]: Thanks for the advice @kim-em  :) I'm working on the proof of `Nat.shiftLeft_or_distrib` but it seems to me like the best way to prove it is to add `shiftLeft_bitwise_distrib`, `bitwise_mul_two_pow`, and potentially a few more theorems (basically do what the proof of `shiftRight_and_distrib` does). If this sounds sensible I'm happy to add the necessary theorems, but maybe it's better to do it in another PR, since this is quite big already?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2045]: Currently working [here](https://github.com/opencompl/lean4/tree/nat-shiftleft-distrib-s) on this to avoid having a massive PR!

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2045]: now in #6630 :)

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -3416,6 +3442,33 @@ theorem getElem_replicate {n w : Nat} (x : BitVec w) (h : i < w * n) :
...
+    simp [getLsbD_cons, show n + w₂ + w₃ = n + (w₂ + w₃) by omega]
+
+theorem replicate_append_self {x : BitVec w} :
+    x ++ x.replicate n = (x.replicate n ++ x).cast (by omega) := by
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    rw [replicate_succ]
+    conv => lhs; rw [ih]
+    simp [cast_cast, cast_eq]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3462]: Non-terminal simp

**Comment by kim-em** [comment]
Could you update the PR description, which is out of date now? Ping me when that's done and I'll merge!

**Comment by luisacicolini** [comment]
Thanks @kim-em, done now!
